US05006561
5-Amino-2-[N-(4-aminophenethyl)-N-methylamino]indane
A solution of 2-[N-methyl-N-(4-nitrophenethyl)amino]-5-nitroindane (0.5 g) in ethyl acetate/methanol (40 ml/10 ml) containing 5% Pd/C (0.05 g) was stirred under a hydrogen atmosphere [206.8 kPa (30 psi)] for 4 hours at room temperature. The catalyst was then removed by filtration and the filtrate evaporated in vacuo to give a gum which was triturated with ether. The ether was decanted and evaporated to dryness in vacuo to give the title compound, yield 0.33 g. A small sample was taken and recrystallised from diisopropyl ether, m.p. 112°-114°.

reactant | 2-[N-methyl-N-(4-nitrophenethyl)amino]-5-nitroindane | 0.5 g | CN(CCC1=CC=C(C=C1)[N+](=O)[O-])C1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C18H19N3O4
solvent | ethyl acetate methanol | 40 ml | C(C)(=O)OCC.CO
catalyst | Pd/C | 0.05 g | [Pd] | Pd
product | 5-Amino-2-[N-(4-aminophenethyl)-N-methylamino]indane | NC=1C=C2CC(CC2=CC1)N(C)CCC1=CC=C(C=C1)N | C18H23N3
